US04889946
7 g of aminoacetic acid ethyl ester chloride, 20.7 g of 2-nitro-5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-benzoic acid chloride and 180 ml of acetonitrile were initially introduced into the reaction vessel. 4 g of sodium hydroxide, dissolved in 10 ml of water, were added dropwise at -10° to -5° C. The reaction mixture was then poured onto water and adjusted to pH 10 and the crystalline product was filtered off. 23 g (95% of theory) of 5-(2,6-dichoro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid (ethoxycarbonylmethyl)-amide with a melting point of 146° C. were obtained.

reactant | aminoacetic acid ethyl ester chloride | 7 g | [Cl-].C(C)OC(CN)=O
reactant | 2-nitro-5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-benzoic acid chloride | 20.7 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H5Cl3F3NO4
reactant | acetonitrile | 180 ml | C(C)#N | C2H3N
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 5-(2,6-dichoro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid (ethoxycarbonylmethyl)-amide | 23 g, 95% | C(C)OC(=O)CNC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[N+](=O)[O-])=O | C18H13Cl2F3N2O6
